US04250085
(i)(b) 45.4 g (180 mmol) of N-benzyloxycarbonyl-L-norvaline were stirred in 200 ml of methylene chloride while 31.76 g (180 mmol) of dimethyl aminomethylphosphonate hydrochloride were added. The resulting suspension was cooled to -12° C. and 25.3 ml (180 mmol) of dry triethylamine were added dropwise. After completion of the addition, the cold mixture was stirred for 0.25 hour. 56.8 g (230 mmol) of 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline in 100 ml of methylene chloride were then added rapidly. The mixture was stirred in the cold for 2 hours and then at room temperature overnight. The mixture was washed with 100 ml of water and then with four 100 ml portions of 1-N hydrochloric acid. The combined acid washings were back-extracted with two 50 ml portions of methylene chloride. The combined organic solutions were washed with 100 ml of water and finally with three 100 ml portions of 15% potassium bicarbonate solution, then dried over anhydrous sodium sulphate, filtered and evaporated. The residual oil was re-evaporated with benzene to give an oil which was triturated with 200 ml of anhydrous ether. There were obtained 58.2 g of crude product of melting point 77°-80° C. Recrystallization from 200 ml of ethyl acetate gave 50.6 g of dimethyl N-benzyloxycarbonyl-L-norvalyl-aminomethylphosphonate of melting point 82°-84° C.

reactant | N-benzyloxycarbonyl-L-norvaline | 180 mmol, 45.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC)C(=O)O | C13H17NO4
reactant | dimethyl aminomethylphosphonate hydrochloride | 180 mmol, 31.76 g | Cl.NCP(OC)(OC)=O
reactant | triethylamine | 180 mmol, 25.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | 230 mmol, 56.8 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | dimethyl N-benzyloxycarbonyl-L-norvalyl-aminomethylphosphonate | 50.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC)C(=O)C(N)P(OC)(OC)=O | C16H25N2O6P
